US06300334B1
c) 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-5-(2-thienylthio)-thieno[2,3-d]pyrimidine-6-carboxaldehyde
To a solution of 5-chloro-1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-6-carboxaldehyde in acetone (30 ml) was added potassium carbonate (0.402 g) followed by 2-thiophene thiol (0.337 g). The reaction was stirred for 24 hours under nitrogen. The acetone was evaporated and the resulting residue was partitioned between ethyl acetate and water (1:1, 50 ml in total). The aqueous phase was extracted twice with ethyl acetate (25 ml) The organic extracts were washed with brine, then dried over magnesium sulfate, filtered and evaporated to leave a brown oil. This oil was triturated with diethyl ether to give the subtitle compound as a pale brown solid (0.528 g).

reactant | 5-chloro-1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-6-carboxaldehyde | ClC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)C=O | C12H13ClN2O3S
reactant | potassium carbonate | 0.402 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-thiophene thiol | 0.337 g | S1C(=CC=C1)S | C4H4S2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-5-(2-thienylthio)-thieno[2,3-d]pyrimidine-6-carboxaldehyde | 0.528 g | CN1C(N(C2=C(C1=O)C(=C(S2)C=O)SC=2SC=CC2)CC(C)C)=O | C16H16N2O3S3
